US05508440
The yield could be increased to 85% or higher by substituting absolute ethanol for alcohol and concentrated hydrochloric acid for diluted hydrochloric acid. More specifically, 5-formyl terthiophene (0.2 g) was first dissolved in absolute ethanol (15 ml) at room temperature. To the solution, 0.03 ml concentrated hydrochloric acid/absolute ethanol mixture (0.3 ml conc. HCl in 10 ml absolute ethanol) was then added. After stirring for 2 hours, 0.8 g sodium bicarbonate (NaHCO3) was added and the stirring was continued for 0.5 hours followed by filtration. The ethanol was removed under reduced pressure. 5-ethoxymethyl terthiophene thus obtained was purified by silica gel chromatography.

reactant | hydrochloric acid | Cl | ClH
reactant | 5-formyl terthiophene | 0.2 g | C(=O)C1=CC=C(S1)C=1SC=CC1C=1SC=CC1 | C13H8OS3
reactant | hydrochloric acid | 0.03 ml | Cl | ClH
reactant | sodium bicarbonate | 0.8 g | C([O-])(O)=O.[Na+]
reactant | ethanol | 15 ml | C(C)O | C2H6O
product | 5-ethoxymethyl terthiophene | C(C)OCC1=CC=C(S1)C=1SC=CC1C=1SC=CC1 | C15H14OS3
